US08729095B2
Under ice cooling, to a dichloromethane solution (10.0 ml) of methyl 3-fluoro-2′-methoxy-4′-methylbiphenyl-4-carboxylate (910 mg) was added a dichloromethane solution (1 M, 9.95 ml) of boron tribromide, followed by stirring at room temperature overnight. The reaction solution was poured into water, and extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. To the resulting residue were added methanol (30.0 ml) and ethyl acetate (3.0 ml). Under ice cooling, a hexane solution (2 M, 8.30 ml) of trimethylsilyldiazomethane was added dropwise, and stirred at room temperature overnight. The reaction solution was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography to afford methyl 3-fluoro-2′-hydroxy-4′-methylbiphenyl-4-carboxylate (137 mg).

reactant | dichloromethane | 10.0 ml | ClCCl | CH2Cl2
reactant | methyl 3-fluoro-2′-methoxy-4′-methylbiphenyl-4-carboxylate | 910 mg | FC=1C=C(C=CC1C(=O)OC)C1=C(C=C(C=C1)C)OC | C16H15FO3
reactant | dichloromethane | 1 M, 9.95 ml | ClCCl | CH2Cl2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | water | O | H2O
product | methyl 3-fluoro-2′-hydroxy-4′-methylbiphenyl-4-carboxylate | 137 mg | FC=1C=C(C=CC1C(=O)OC)C1=C(C=C(C=C1)C)O | C15H13FO3
